data/oMe_Silver.jsonl
{"reaction_id": "NR-212_1-CC_2-C_3-C_4-c1ccccc1_5-c1ccccc1_6-c1cccc(C)c1","level": "easy","name": "Paterno-Buchi Reaction","reactants_smiles": ["C(CC)(C)=C(C)(c1ccccc1)","O=C(c1ccccc1)(c1cccc(C)c1)"],"products_smiles": ["C1(CC)(C)C(c1ccccc1)(c1cccc(C)c1)OC1(C)(c1ccccc1)"],"conditions": "hv","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "radical","subtype": "radical_coupling","intermediate_smiles": "C1(CC)(C)C(c1ccccc1)(c1cccc(C)c1)OC1(C)(c1ccccc1)","step_weight": 0,"rationale": "UV light excites the carbonyl to a reactive state, allowing radical coupling with the alkene's π-bond; oxygen's electronegativity and π-overlap stabilize the diradical intermediate, favoring oxetane ring closure."}],"description": "Under UV irradiation, the carbonyl compound is excited to a singlet or triplet state, enabling [2+2] photocycloaddition with the alkene to form an oxetane. The reaction proceeds via radical intermediates stabilized by the oxygen and alkene π-system."}
{"reaction_id": "NR-211_1-c1ccccc1_2-C(C)(C)C_3-c1cc2ccccc2cc1_4-c1ccoc1","level": "hard","name": "Passerini Reaction","reactants_smiles": ["C(=O)(c1ccccc1)C(C)(C)C","[C-]#[N+]c1cc2ccccc2cc1","O=C(O)c1ccoc1"],"products_smiles": ["O=C(c1ccoc1)OC(C(=O)Nc1cc2ccccc2cc1)(c1ccccc1)C(C)(C)C"],"conditions": "acid","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=[OH+])(c1ccccc1)C(C)(C)C","step_weight": 0,"rationale": "Acid protonates the carbonyl oxygen, increasing electrophilicity of the carbon and making it more susceptible to nucleophilic attack."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "OC(c1ccccc1)(C(C)(C)C)C(#[N+]c1cc2ccccc2cc1)","step_weight": 0,"rationale": "The isocyanide carbon, being nucleophilic due to its adjacent positive nitrogen, attacks the activated carbonyl carbon, forming a nitrilium intermediate."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[OH+]=C(c1ccoc1)OC(=[N]c1cc2ccccc2cc1)C(c1ccccc1)(C(C)(C)C)O","step_weight": 0,"rationale": "The carboxylic acid oxygen attacks the electrophilic nitrilium carbon, favored by resonance stabilization of the resulting intermediate."},{"step": 4,"type": "proton_transfer","subtype": "intramolecular_proton_transfer","intermediate_smiles": "[OH]C2(c1ccoc1)OC(=[N]c1cc2ccccc2cc1)C(c1ccccc1)(C(C)(C)C)O2","step_weight": 0,"rationale": "Intramolecular proton transfer stabilizes charges and positions the leaving group for the next elimination step."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "O=C(c1ccoc1)OC(C(=O)Nc1cc2ccccc2cc1)(c1ccccc1)C(C)(C)C","step_weight": 0,"rationale": "Elimination of water occurs as the leaving group is stabilized by adjacent carbonyl, yielding the thermodynamically stable α-acyloxy amide."}],"description": "Under acidic conditions, the Passerini reaction proceeds via activation of the carbonyl, nucleophilic attack by isocyanide, and subsequent trapping by a carboxylic acid. Proton transfers and elimination steps drive the formation of the α-acyloxy amide product through stabilized intermediates."}
